US07507740B2
Production of (4R)-4-hydroxy-N-{2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-L-prolinamide dihydrochloride
tert-Butyl (2S,4R)-4-hydroxy-2-[({2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}amino)carbonyl]pyrrolidine-1-carboxylate (230 mg) was dissolved in dichloromethane (2.39 mL), trifluoroacetic acid (1.79 mL) was added, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate/tetrahydrofuran (1:1, 50 mL). The organic layer washed with saturated aqueous sodium hydrogen carbonate (30 mL), dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to basic silica gel chromatography (ethyl acetate/methanol=100/0→80/20). The fractions containing the title compound were collected and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, 4N hydrochloric acid (0.252 mL) was added, and the mixture was crystallized to give the title compound (136 mg).

reactant | tert-Butyl (2S,4R)-4-hydroxy-2-[({2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}amino)carbonyl]pyrrolidine-1-carboxylate | 230 mg | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)C | C32H35F3N6O5
reactant | trifluoroacetic acid | 1.79 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 2.39 mL | ClCCl | CH2Cl2
product | (4R)-4-hydroxy-N-{2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-L-prolinamide dihydrochloride | 136 mg | Cl.Cl.O[C@@H]1C[C@H](NC1)C(=O)NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)C | InChI=1S/C27H27F3N6O3.2ClH/c1-16-11-18(5-6-23(16)39-20-4-2-3-17(12-20)27(28,29)30)35-25-24-21(33-15-34-25)7-9-36(24)10-8-31-26(38)22-13-19(37)14-32-22;;/h2-7,9,11-12,15,19,22,32,37H,8,10,13-14H2,1H3,(H,31,38)(H,33,34,35);2*1H/t19-,22+;;/m1../s1
